US09402841B2
Step B: methyl 2-fluoro-6-vinylbenzoate
To a solution of methyl 2-bromo-6-fluorobenzoate (53 g, 0.228 mol) and potassium trifluoro(vinyl)borate (33.63 g, 0.251 mol) in dioxane and H2O (3:1, 600 mL) was added Pd(dppf)Cl2 (5 g, 6.84 mmol) and sodium carbonate (69 g, 0.684 mol) at RT. The reaction mixture was heated at 100° C. for 12 hours under a nitrogen atmosphere. The mixture was concentrated in vacuo, diluted with water, and extracted with EtOAc (3×200 mL). The combined organic layers were washed with brine, dried over anhydrous Na2CO3, filtered, and concentrated. The crude product was purified by column chromatography eluting with a gradient of EtOAc (1-100%) and PE to give the title compound (31.4 g, 76.5%). 1H NMR (400 MHz, CDCl3) δ ppm 7.45-7.36 (m, 2H), 7.03-7.02 (m, 1H), 6.88-6.81 (m, 1H), 5.77-5.73 (m, 1H), 5.41-5.39 (d, J=10.8 Hz, 1H), 3.95 (s, 3H).

reactant | methyl 2-bromo-6-fluorobenzoate | 0.228 mol, 53 g | BrC1=C(C(=O)OC)C(=CC=C1)F | C8H6BrFO2
reactant | potassium trifluoro(vinyl)borate | 0.251 mol, 33.63 g | [B-](C=C)(F)(F)F.[K+]
reactant | sodium carbonate | 0.684 mol, 69 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | H2O | 600 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 6.84 mmol, 5 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 2-fluoro-6-vinylbenzoate | 31.4 g, 76.5% | FC1=C(C(=O)OC)C(=CC=C1)C=C | C10H9FO2
